### PR TITLE
feat: add bv_omega_bench to run omega and produce goal states + timing inf.

### PR DESCRIPTION
**Pull request by bollu**
### Description:

This PR replaces `bv_omega` with `bv_omega_bench`, which is used to write benchmarking results into a user-specified filepath. This enables us to extract out benchmarks to be upstreamed, as begun in https://github.com/leanprover/lean4/pull/5622. 

We make the file path, whether the benchmark run is enabled or not, and the minimum time necessary to be added to the benchmark all user-configurable parameters.

### Testing:

What tests have been run? Did `make all` succeed for your changes? Was
conformance testing successful on an Aarch64 machine?

### License:

By submitting this pull request, I confirm that my contribution is
made under the terms of the Apache 2.0 license.

### CODE REVIEW

**Comment by bollu** [comment]
```

---

time
1451
endtime
goal
s0 si : ArmState
h_si_x0_nonzero : si.x0 ≠ 0
h_s0_x1 : s0.x1 + 0x10#64 * (s0.x0 - si.x0) + 0x10#64 = s0.x1 + 0x10#64 * (s0.x0 - (si.x0 - 0x1#64))
h_s0_x2 : s0.x2 + 0x10#64 * (s0.x0 - si.x0) + 0x10#64 = s0.x2 + 0x10#64 * (s0.x0 - (si.x0 - 0x1#64))
h_assert_1 : si.x0 ≤ s0.x0
h_assert_3 : si.x1 = s0.x1 + 0x10#64 * (s0.x0 - si.x0)
h_assert_4 : si.x2 = s0.x2 + 0x10#64 * (s0.x0 - si.x0)
h_assert_6 :
  ∀ (n : Nat) (addr : BitVec 64),
    mem_separate' s0.x2 (0x10#64 * (s0.x0 - si.x0)).toNat addr n →
      Memory.read_bytes n addr si.mem = Memory.read_bytes n addr s0.mem
h_assert_5 :
  ∀ (i : BitVec 64),
    i < s0.x0 - si.x0 →
      Memory.read_bytes 16 (s0.x2 + 0x10#64 * i) si.mem = Memory.read_bytes 16 (s0.x1 + 0x10#64 * i) s0.mem
h_pre_1 : mem_separate' s0.x1 (s0.x0.toNat * 16) s0.x2 (s0.x0.toNat * 16)
n : Nat
addr : BitVec 64
hsep : mem_separate' s0.x2 (0x10#64 * (s0.x0 - (si.x0 - 0x1#64))).toNat addr n
h_le : (s0.x0 - (si.x0 - 0x1#64)).toNat ≤ s0.x0.toNat
h_upper_bound : addr.toNat + n ≤ 2 ^ 64
h_upper_bound₂ : s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64
h_upper_bound₃ : s0.x2.toNat + (0x10#64 * (s0.x0 - (si.x0 - 0x1#64))).toNat ≤ 2 ^ 64
h_width_lt : 0x10#64.toNat * (s0.x0 - (si.x0 - 0x1#64)).toNat < 2 ^ 64
hmemSeparate_omega✝¹ : s0.x1.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 ∧
  s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 ∧
    (s0.x1.toNat + s0.x0.toNat * 16 ≤ s0.x2.toNat ∨ s0.x1.toNat ≥ s0.x2.toNat + s0.x0.toNat * 16) :=
  cast
    (Eq.refl
      (s0.x1.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 ∧
        s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 ∧
          (s0.x1.toNat + s0.x0.toNat * 16 ≤ s0.x2.toNat ∨ s0.x1.toNat ≥ s0.x2.toNat + s0.x0.toNat * 16)))
    (mem_separate'.omega_def h_pre_1)
hmemLegal_omega✝³ : s0.x1.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 :=
  cast (Eq.refl (s0.x1.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64)) (mem_legal'.omega_def h_pre_1.ha)
hmemLegal_omega✝² : s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 :=
  cast (Eq.refl (s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64)) (mem_legal'.omega_def h_pre_1.hb)
hmemSeparate_omega✝ : s0.x2.toNat +
      16 % 2 ^ 64 * ((s0.x0.toNat + (2 ^ 64 - (si.x0.toNat + (2 ^ 64 - 1 % 2 ^ 64)) % 2 ^ 64)) % 2 ^ 64) % 2 ^ 64 ≤
    2 ^ 64 ∧
  addr.toNat + n ≤ 2 ^ 64 ∧
    (s0.x2.toNat +
          16 % 2 ^ 64 * ((s0.x0.toNat + (2 ^ 64 - (si.x0.toNat + (2 ^ 64 - 1 % 2 ^ 64)) % 2 ^ 64)) % 2 ^ 64) % 2 ^ 64 ≤
        addr.toNat ∨
      s0.x2.toNat ≥ addr.toNat + n) :=
  cast
    (congr
      (congrArg (fun x => And (s0.x2.toNat + x % 2 ^ 64 ≤ 2 ^ 64))
        (congr (congrArg HMul.hMul (BitVec.toNat_ofNat 16 64))
          (Eq.trans (BitVec.toNat_sub' s0.x0 (si.x0 - 0x1#64))
            (congrArg (fun x => (s0.x0.toNat + (2 ^ 64 - x)) % 2 ^ 64)
              (Eq.trans (BitVec.toNat_sub' si.x0 0x1#64)
                (congrArg (fun x => (si.x0.toNat + (2 ^ 64 - x)) % 2 ^ 64) (BitVec.toNat_ofNat 1 64)))))))
      (congrArg
        (fun x => addr.toNat + n ≤ 2 ^ 64 ∧ (s0.x2.toNat + x % 2 ^ 64 ≤ addr.toNat ∨ s0.x2.toNat ≥ addr.toNat + n))
        (congr (congrArg HMul.hMul (BitVec.toNat_ofNat 16 64))
          (Eq.trans (BitVec.toNat_sub' s0.x0 (si.x0 - 0x1#64))
            (congrArg (fun x => (s0.x0.toNat + (2 ^ 64 - x)) % 2 ^ 64)
              (Eq.trans (BitVec.toNat_sub' si.x0 0x1#64)
                (congrArg (fun x => (si.x0.toNat + (2 ^ 64 - x)) % 2 ^ 64) (BitVec.toNat_ofNat 1 64))))))))
    (mem_separate'.omega_def hsep)
hmemLegal_omega✝¹ : s0.x2.toNat +
    16 % 2 ^ 64 * ((s0.x0.toNat + (2 ^ 64 - (si.x0.toNat + (2 ^ 64 - 1 % 2 ^ 64)) % 2 ^ 64)) % 2 ^ 64) % 2 ^ 64 ≤
  2 ^ 64 :=
  cast
    (congrArg (fun x => s0.x2.toNat + x % 2 ^ 64 ≤ 2 ^ 64)
      (congr (congrArg HMul.hMul (BitVec.toNat_ofNat 16 64))
        (Eq.trans (BitVec.toNat_sub' s0.x0 (si.x0 - 0x1#64))
          (congrArg (fun x => (s0.x0.toNat + (2 ^ 64 - x)) % 2 ^ 64)
            (Eq.trans (BitVec.toNat_sub' si.x0 0x1#64)
              (congrArg (fun x => (si.x0.toNat + (2 ^ 64 - x)) % 2 ^ 64) (BitVec.toNat_ofNat 1 64)))))))
    (mem_legal'.omega_def hsep.ha)
hmemLegal_omega✝ : addr.toNat + n ≤ 2 ^ 64 := cast (Eq.refl (addr.toNat + n ≤ 2 ^ 64)) (mem_legal'.omega_def hsep.hb)
⊢ s0.x2.toNat + (0x10#64 * (s0.x0 - si.x0)).toNat ≤ 2 ^ 64 ∧
    addr.toNat + n ≤ 2 ^ 64 ∧
      (s0.x2.toNat + (0x10#64 * (s0.x0 - si.x0)).toNat ≤ addr.toNat ∨ s0.x2.toNat ≥ addr.toNat + n)
endgoal

---

time
1518
endtime
goal
case hsep.h.h₁.h.refine_1
s0 si : ArmState
h_si_x0_nonzero : si.x0 ≠ 0
h_s0_x1 : s0.x1 + 0x10#64 * (s0.x0 - si.x0) + 0x10#64 = s0.x1 + 0x10#64 * (s0.x0 - (si.x0 - 0x1#64))
h_s0_x2 : s0.x2 + 0x10#64 * (s0.x0 - si.x0) + 0x10#64 = s0.x2 + 0x10#64 * (s0.x0 - (si.x0 - 0x1#64))
h_assert_1 : si.x0 ≤ s0.x0
h_assert_3 : si.x1 = s0.x1 + 0x10#64 * (s0.x0 - si.x0)
h_assert_4 : si.x2 = s0.x2 + 0x10#64 * (s0.x0 - si.x0)
h_assert_6 :
  ∀ (n : Nat) (addr : BitVec 64),
    mem_separate' s0.x2 (0x10#64 * (s0.x0 - si.x0)).toNat addr n →
      Memory.read_bytes n addr si.mem = Memory.read_bytes n addr s0.mem
h_assert_5 :
  ∀ (i : BitVec 64),
    i < s0.x0 - si.x0 →
      Memory.read_bytes 16 (s0.x2 + 0x10#64 * i) si.mem = Memory.read_bytes 16 (s0.x1 + 0x10#64 * i) s0.mem
h_pre_1 : mem_separate' s0.x1 (s0.x0.toNat * 16) s0.x2 (s0.x0.toNat * 16)
n : Nat
addr : BitVec 64
hsep : mem_separate' s0.x2 (0x10#64 * (s0.x0 - (si.x0 - 0x1#64))).toNat addr n
h_le : (s0.x0 - (si.x0 - 0x1#64)).toNat ≤ s0.x0.toNat
h_upper_bound : addr.toNat + n ≤ 2 ^ 64
h_upper_bound₂ : s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64
h_upper_bound₃ : s0.x2.toNat + (0x10#64 * (s0.x0 - (si.x0 - 0x1#64))).toNat ≤ 2 ^ 64
h_width_lt : 0x10#64.toNat * (s0.x0 - (si.x0 - 0x1#64)).toNat < 2 ^ 64
⊢ (s0.x2 + 0x10#64 * (s0.x0 - si.x0)).toNat + 16 ≤ 2 ^ 64
endgoal

---

time
1761
endtime
goal
case hsep.h.h₁.h.refine_3
s0 si : ArmState
h_si_x0_nonzero : si.x0 ≠ 0
h_s0_x1 : s0.x1 + 0x10#64 * (s0.x0 - si.x0) + 0x10#64 = s0.x1 + 0x10#64 * (s0.x0 - (si.x0 - 0x1#64))
h_s0_x2 : s0.x2 + 0x10#64 * (s0.x0 - si.x0) + 0x10#64 = s0.x2 + 0x10#64 * (s0.x0 - (si.x0 - 0x1#64))
h_assert_1 : si.x0 ≤ s0.x0
h_assert_3 : si.x1 = s0.x1 + 0x10#64 * (s0.x0 - si.x0)
h_assert_4 : si.x2 = s0.x2 + 0x10#64 * (s0.x0 - si.x0)
h_assert_6 :
  ∀ (n : Nat) (addr : BitVec 64),
    mem_separate' s0.x2 (0x10#64 * (s0.x0 - si.x0)).toNat addr n →
      Memory.read_bytes n addr si.mem = Memory.read_bytes n addr s0.mem
h_assert_5 :
  ∀ (i : BitVec 64),
    i < s0.x0 - si.x0 →
      Memory.read_bytes 16 (s0.x2 + 0x10#64 * i) si.mem = Memory.read_bytes 16 (s0.x1 + 0x10#64 * i) s0.mem
h_pre_1 : mem_separate' s0.x1 (s0.x0.toNat * 16) s0.x2 (s0.x0.toNat * 16)
n : Nat
addr : BitVec 64
hsep : mem_separate' s0.x2 (0x10#64 * (s0.x0 - (si.x0 - 0x1#64))).toNat addr n
h_le : (s0.x0 - (si.x0 - 0x1#64)).toNat ≤ s0.x0.toNat
h_upper_bound : addr.toNat + n ≤ 2 ^ 64
h_upper_bound₂ : s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64
h_upper_bound₃ : s0.x2.toNat + (0x10#64 * (s0.x0 - (si.x0 - 0x1#64))).toNat ≤ 2 ^ 64
h_width_lt : 0x10#64.toNat * (s0.x0 - (si.x0 - 0x1#64)).toNat < 2 ^ 64
⊢ s0.x2.toNat ≤ (s0.x2 + 0x10#64 * (s0.x0 - si.x0)).toNat
endgoal

---

time
1955
endtime
goal
case hsep.h.h₁.h.refine_4
s0 si : ArmState
h_si_x0_nonzero : si.x0 ≠ 0
h_s0_x1 : s0.x1 + 0x10#64 * (s0.x0 - si.x0) + 0x10#64 = s0.x1 + 0x10#64 * (s0.x0 - (si.x0 - 0x1#64))
h_s0_x2 : s0.x2 + 0x10#64 * (s0.x0 - si.x0) + 0x10#64 = s0.x2 + 0x10#64 * (s0.x0 - (si.x0 - 0x1#64))
h_assert_1 : si.x0 ≤ s0.x0
h_assert_3 : si.x1 = s0.x1 + 0x10#64 * (s0.x0 - si.x0)
h_assert_4 : si.x2 = s0.x2 + 0x10#64 * (s0.x0 - si.x0)
h_assert_6 :
  ∀ (n : Nat) (addr : BitVec 64),
    mem_separate' s0.x2 (0x10#64 * (s0.x0 - si.x0)).toNat addr n →
      Memory.read_bytes n addr si.mem = Memory.read_bytes n addr s0.mem
h_assert_5 :
  ∀ (i : BitVec 64),
    i < s0.x0 - si.x0 →
      Memory.read_bytes 16 (s0.x2 + 0x10#64 * i) si.mem = Memory.read_bytes 16 (s0.x1 + 0x10#64 * i) s0.mem
h_pre_1 : mem_separate' s0.x1 (s0.x0.toNat * 16) s0.x2 (s0.x0.toNat * 16)
n : Nat
addr : BitVec 64
hsep : mem_separate' s0.x2 (0x10#64 * (s0.x0 - (si.x0 - 0x1#64))).toNat addr n
h_le : (s0.x0 - (si.x0 - 0x1#64)).toNat ≤ s0.x0.toNat
h_upper_bound : addr.toNat + n ≤ 2 ^ 64
h_upper_bound₂ : s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64
h_upper_bound₃ : s0.x2.toNat + (0x10#64 * (s0.x0 - (si.x0 - 0x1#64))).toNat ≤ 2 ^ 64
h_width_lt : 0x10#64.toNat * (s0.x0 - (si.x0 - 0x1#64)).toNat < 2 ^ 64
⊢ (s0.x2 + 0x10#64 * (s0.x0 - si.x0)).toNat + 16 ≤ s0.x2.toNat + (0x10#64 * (s0.x0 - (si.x0 - 0x1#64))).toNat
endgoal

---

time
1621
endtime
goal
s0 si : ArmState
h_si_x0_nonzero : si.x0 ≠ 0
h_s0_x1 : s0.x1 + 0x10#64 * (s0.x0 - si.x0) + 0x10#64 = s0.x1 + 0x10#64 * (s0.x0 - (si.x0 - 0x1#64))
h_s0_x2 : s0.x2 + 0x10#64 * (s0.x0 - si.x0) + 0x10#64 = s0.x2 + 0x10#64 * (s0.x0 - (si.x0 - 0x1#64))
h_assert_1 : si.x0 ≤ s0.x0
h_assert_3 : si.x1 = s0.x1 + 0x10#64 * (s0.x0 - si.x0)
h_assert_4 : si.x2 = s0.x2 + 0x10#64 * (s0.x0 - si.x0)
h_assert_6 :
  ∀ (n : Nat) (addr : BitVec 64),
    mem_separate' s0.x2 (0x10#64 * (s0.x0 - si.x0)).toNat addr n →
      Memory.read_bytes n addr si.mem = Memory.read_bytes n addr s0.mem
h_assert_5 :
  ∀ (i : BitVec 64),
    i < s0.x0 - si.x0 →
      Memory.read_bytes 16 (s0.x2 + 0x10#64 * i) si.mem = Memory.read_bytes 16 (s0.x1 + 0x10#64 * i) s0.mem
h_pre_1 : mem_separate' s0.x1 (s0.x0.toNat * 16) s0.x2 (s0.x0.toNat * 16)
h_pre_2 : r StateField.PC s0 = 0x8e0#64
h_pre_6 : 16 * s0.x0.toNat < 2 ^ 64
h_subset_2 : mem_subset' s0.x2 (0x10#64 * (s0.x0 - si.x0)).toNat s0.x2 (s0.x0.toNat * 16)
h_subset_1 : mem_subset' (s0.x1 + 0x10#64 * (s0.x0 - si.x0)) 16 s0.x1 (s0.x0.toNat * 16)
s2_sum_inbounds : s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64
hi : s0.x0 - si.x0 < s0.x0 - (si.x0 - 0x1#64)
i_sub_x0_mul_16 : 16 * (s0.x0 - si.x0).toNat < 16 * s0.x0.toNat
hmemSeparate_omega✝ : s0.x1.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 ∧
  s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 ∧
    (s0.x1.toNat + s0.x0.toNat * 16 ≤ s0.x2.toNat ∨ s0.x1.toNat ≥ s0.x2.toNat + s0.x0.toNat * 16) :=
  cast
    (Eq.refl
      (s0.x1.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 ∧
        s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 ∧
          (s0.x1.toNat + s0.x0.toNat * 16 ≤ s0.x2.toNat ∨ s0.x1.toNat ≥ s0.x2.toNat + s0.x0.toNat * 16)))
    (mem_separate'.omega_def h_pre_1)
hmemLegal_omega✝⁵ : s0.x1.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 :=
  cast (Eq.refl (s0.x1.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64)) (mem_legal'.omega_def h_pre_1.ha)
hmemLegal_omega✝⁴ : s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 :=
  cast (Eq.refl (s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64)) (mem_legal'.omega_def h_pre_1.hb)
hmemSubset_omega✝¹ : s0.x2.toNat + 16 % 2 ^ 64 * ((s0.x0.toNat + (2 ^ 64 - si.x0.toNat)) % 2 ^ 64) % 2 ^ 64 ≤ 2 ^ 64 ∧
  s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 ∧
    s0.x2.toNat + 16 % 2 ^ 64 * ((s0.x0.toNat + (2 ^ 64 - si.x0.toNat)) % 2 ^ 64) % 2 ^ 64 ≤
      s0.x2.toNat + s0.x0.toNat * 16 :=
  cast
    (congr
      (congrArg (fun x => And (s0.x2.toNat + x % 2 ^ 64 ≤ 2 ^ 64))
        (congr (congrArg HMul.hMul (BitVec.toNat_ofNat 16 64)) (BitVec.toNat_sub' s0.x0 si.x0)))
      (congrArg (And (s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64))
        (Eq.trans
          (congr (congrArg And (Arm.MinTheory._auxLemma.31 s0.x2.toNat))
            (congrArg (fun x => s0.x2.toNat + x % 2 ^ 64 ≤ s0.x2.toNat + s0.x0.toNat * 16)
              (congr (congrArg HMul.hMul (BitVec.toNat_ofNat 16 64)) (BitVec.toNat_sub' s0.x0 si.x0))))
          (true_and
            (s0.x2.toNat + 16 % 2 ^ 64 * ((s0.x0.toNat + (2 ^ 64 - si.x0.toNat)) % 2 ^ 64) % 2 ^ 64 ≤
              s0.x2.toNat + s0.x0.toNat * 16)))))
    (mem_subset'.omega_def h_subset_2)
hmemLegal_omega✝³ : s0.x2.toNat + 16 % 2 ^ 64 * ((s0.x0.toNat + (2 ^ 64 - si.x0.toNat)) % 2 ^ 64) % 2 ^ 64 ≤ 2 ^ 64 :=
  cast
    (congrArg (fun x => s0.x2.toNat + x % 2 ^ 64 ≤ 2 ^ 64)
      (congr (congrArg HMul.hMul (BitVec.toNat_ofNat 16 64)) (BitVec.toNat_sub' s0.x0 si.x0)))
    (mem_legal'.omega_def h_subset_2.ha)
hmemLegal_omega✝² : s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 :=
  cast (Eq.refl (s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64)) (mem_legal'.omega_def h_subset_2.hb)
hmemSubset_omega✝ : (s0.x1.toNat + 16 % 2 ^ 64 * ((s0.x0.toNat + (2 ^ 64 - si.x0.toNat)) % 2 ^ 64) % 2 ^ 64) % 2 ^ 64 +
      16 ≤
    2 ^ 64 ∧
  s0.x1.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 ∧
    s0.x1.toNat ≤ (s0.x1.toNat + 16 % 2 ^ 64 * ((s0.x0.toNat + (2 ^ 64 - si.x0.toNat)) % 2 ^ 64) % 2 ^ 64) % 2 ^ 64 ∧
      (s0.x1.toNat + 16 % 2 ^ 64 * ((s0.x0.toNat + (2 ^ 64 - si.x0.toNat)) % 2 ^ 64) % 2 ^ 64) % 2 ^ 64 + 16 ≤
        s0.x1.toNat + s0.x0.toNat * 16 :=
  cast
    (congr
      (congrArg (fun x => And ((s0.x1.toNat + x % 2 ^ 64) % 2 ^ 64 + 16 ≤ 2 ^ 64))
        (congr (congrArg HMul.hMul (BitVec.toNat_ofNat 16 64)) (BitVec.toNat_sub' s0.x0 si.x0)))
      (congrArg (And (s0.x1.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64))
        (congr
          (congrArg (fun x => And (s0.x1.toNat ≤ (s0.x1.toNat + x % 2 ^ 64) % 2 ^ 64))
            (congr (congrArg HMul.hMul (BitVec.toNat_ofNat 16 64)) (BitVec.toNat_sub' s0.x0 si.x0)))
          (congrArg (fun x => (s0.x1.toNat + x % 2 ^ 64) % 2 ^ 64 + 16 ≤ s0.x1.toNat + s0.x0.toNat * 16)
            (congr (congrArg HMul.hMul (BitVec.toNat_ofNat 16 64)) (BitVec.toNat_sub' s0.x0 si.x0))))))
    (mem_subset'.omega_def h_subset_1)
hmemLegal_omega✝¹ : (s0.x1.toNat + 16 % 2 ^ 64 * ((s0.x0.toNat + (2 ^ 64 - si.x0.toNat)) % 2 ^ 64) % 2 ^ 64) % 2 ^ 64 +
    16 ≤
  2 ^ 64 :=
  cast
    (congrArg (fun x => (s0.x1.toNat + x % 2 ^ 64) % 2 ^ 64 + 16 ≤ 2 ^ 64)
      (congr (congrArg HMul.hMul (BitVec.toNat_ofNat 16 64)) (BitVec.toNat_sub' s0.x0 si.x0)))
    (mem_legal'.omega_def h_subset_1.ha)
hmemLegal_omega✝ : s0.x1.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 :=
  cast (Eq.refl (s0.x1.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64)) (mem_legal'.omega_def h_subset_1.hb)
⊢ (s0.x2 + 0x10#64 * (s0.x0 - si.x0)).toNat + 16 ≤ 2 ^ 64 ∧
    (s0.x2 + 0x10#64 * (s0.x0 - si.x0)).toNat + 16 ≤ 2 ^ 64 ∧
      (s0.x2 + 0x10#64 * (s0.x0 - si.x0)).toNat ≤ (s0.x2 + 0x10#64 * (s0.x0 - si.x0)).toNat ∧
        (s0.x2 + 0x10#64 * (s0.x0 - si.x0)).toNat + 16 ≤ (s0.x2 + 0x10#64 * (s0.x0 - si.x0)).toNat + 16
endgoal

---

time
1296
endtime
goal
s0 si : ArmState
h_si_x0_nonzero : si.x0 ≠ 0
h_s0_x1 : s0.x1 + 0x10#64 * (s0.x0 - si.x0) + 0x10#64 = s0.x1 + 0x10#64 * (s0.x0 - (si.x0 - 0x1#64))
h_s0_x2 : s0.x2 + 0x10#64 * (s0.x0 - si.x0) + 0x10#64 = s0.x2 + 0x10#64 * (s0.x0 - (si.x0 - 0x1#64))
h_assert_1 : si.x0 ≤ s0.x0
h_assert_3 : si.x1 = s0.x1 + 0x10#64 * (s0.x0 - si.x0)
h_assert_4 : si.x2 = s0.x2 + 0x10#64 * (s0.x0 - si.x0)
h_assert_6 :
  ∀ (n : Nat) (addr : BitVec 64),
    mem_separate' s0.x2 (0x10#64 * (s0.x0 - si.x0)).toNat addr n →
      Memory.read_bytes n addr si.mem = Memory.read_bytes n addr s0.mem
h_assert_5 :
  ∀ (i : BitVec 64),
    i < s0.x0 - si.x0 →
      Memory.read_bytes 16 (s0.x2 + 0x10#64 * i) si.mem = Memory.read_bytes 16 (s0.x1 + 0x10#64 * i) s0.mem
h_pre_1 : mem_separate' s0.x1 (s0.x0.toNat * 16) s0.x2 (s0.x0.toNat * 16)
n : Nat
addr : BitVec 64
hsep : mem_separate' s0.x2 (0x10#64 * (s0.x0 - (si.x0 - 0x1#64))).toNat addr n
h_le : (s0.x0 - (si.x0 - 0x1#64)).toNat ≤ s0.x0.toNat
h_upper_bound : addr.toNat + n ≤ 2 ^ 64
h_upper_bound₂ : s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64
h_upper_bound₃ : s0.x2.toNat + (0x10#64 * (s0.x0 - (si.x0 - 0x1#64))).toNat ≤ 2 ^ 64
h_width_lt : 0x10#64.toNat * (s0.x0 - (si.x0 - 0x1#64)).toNat < 2 ^ 64
hmemSeparate_omega✝¹ : s0.x1.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 ∧
  s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 ∧
    (s0.x1.toNat + s0.x0.toNat * 16 ≤ s0.x2.toNat ∨ s0.x1.toNat ≥ s0.x2.toNat + s0.x0.toNat * 16) :=
  cast
    (Eq.refl
      (s0.x1.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 ∧
        s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 ∧
          (s0.x1.toNat + s0.x0.toNat * 16 ≤ s0.x2.toNat ∨ s0.x1.toNat ≥ s0.x2.toNat + s0.x0.toNat * 16)))
    (mem_separate'.omega_def h_pre_1)
hmemLegal_omega✝³ : s0.x1.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 :=
  cast (Eq.refl (s0.x1.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64)) (mem_legal'.omega_def h_pre_1.ha)
hmemLegal_omega✝² : s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 :=
  cast (Eq.refl (s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64)) (mem_legal'.omega_def h_pre_1.hb)
hmemSeparate_omega✝ : s0.x2.toNat +
      16 % 2 ^ 64 * ((s0.x0.toNat + (2 ^ 64 - (si.x0.toNat + (2 ^ 64 - 1 % 2 ^ 64)) % 2 ^ 64)) % 2 ^ 64) % 2 ^ 64 ≤
    2 ^ 64 ∧
  addr.toNat + n ≤ 2 ^ 64 ∧
    (s0.x2.toNat +
          16 % 2 ^ 64 * ((s0.x0.toNat + (2 ^ 64 - (si.x0.toNat + (2 ^ 64 - 1 % 2 ^ 64)) % 2 ^ 64)) % 2 ^ 64) % 2 ^ 64 ≤
        addr.toNat ∨
      s0.x2.toNat ≥ addr.toNat + n) :=
  cast
    (congr
      (congrArg (fun x => And (s0.x2.toNat + x % 2 ^ 64 ≤ 2 ^ 64))
        (congr (congrArg HMul.hMul (BitVec.toNat_ofNat 16 64))
          (Eq.trans (BitVec.toNat_sub' s0.x0 (si.x0 - 0x1#64))
            (congrArg (fun x => (s0.x0.toNat + (2 ^ 64 - x)) % 2 ^ 64)
              (Eq.trans (BitVec.toNat_sub' si.x0 0x1#64)
                (congrArg (fun x => (si.x0.toNat + (2 ^ 64 - x)) % 2 ^ 64) (BitVec.toNat_ofNat 1 64)))))))
      (congrArg
        (fun x => addr.toNat + n ≤ 2 ^ 64 ∧ (s0.x2.toNat + x % 2 ^ 64 ≤ addr.toNat ∨ s0.x2.toNat ≥ addr.toNat + n))
        (congr (congrArg HMul.hMul (BitVec.toNat_ofNat 16 64))
          (Eq.trans (BitVec.toNat_sub' s0.x0 (si.x0 - 0x1#64))
            (congrArg (fun x => (s0.x0.toNat + (2 ^ 64 - x)) % 2 ^ 64)
              (Eq.trans (BitVec.toNat_sub' si.x0 0x1#64)
                (congrArg (fun x => (si.x0.toNat + (2 ^ 64 - x)) % 2 ^ 64) (BitVec.toNat_ofNat 1 64))))))))
    (mem_separate'.omega_def hsep)
hmemLegal_omega✝¹ : s0.x2.toNat +
    16 % 2 ^ 64 * ((s0.x0.toNat + (2 ^ 64 - (si.x0.toNat + (2 ^ 64 - 1 % 2 ^ 64)) % 2 ^ 64)) % 2 ^ 64) % 2 ^ 64 ≤
  2 ^ 64 :=
  cast
    (congrArg (fun x => s0.x2.toNat + x % 2 ^ 64 ≤ 2 ^ 64)
      (congr (congrArg HMul.hMul (BitVec.toNat_ofNat 16 64))
        (Eq.trans (BitVec.toNat_sub' s0.x0 (si.x0 - 0x1#64))
          (congrArg (fun x => (s0.x0.toNat + (2 ^ 64 - x)) % 2 ^ 64)
            (Eq.trans (BitVec.toNat_sub' si.x0 0x1#64)
              (congrArg (fun x => (si.x0.toNat + (2 ^ 64 - x)) % 2 ^ 64) (BitVec.toNat_ofNat 1 64)))))))
    (mem_legal'.omega_def hsep.ha)
hmemLegal_omega✝ : addr.toNat + n ≤ 2 ^ 64 := cast (Eq.refl (addr.toNat + n ≤ 2 ^ 64)) (mem_legal'.omega_def hsep.hb)
⊢ s0.x2.toNat + (0x10#64 * (s0.x0 - si.x0)).toNat ≤ 2 ^ 64 ∧
    addr.toNat + n ≤ 2 ^ 64 ∧
      (s0.x2.toNat + (0x10#64 * (s0.x0 - si.x0)).toNat ≤ addr.toNat ∨ s0.x2.toNat ≥ addr.toNat + n)
endgoal

---

time
1511
endtime
goal
case hsep.h.h₁.h.refine_1
s0 si : ArmState
h_si_x0_nonzero : si.x0 ≠ 0
h_s0_x1 : s0.x1 + 0x10#64 * (s0.x0 - si.x0) + 0x10#64 = s0.x1 + 0x10#64 * (s0.x0 - (si.x0 - 0x1#64))
h_s0_x2 : s0.x2 + 0x10#64 * (s0.x0 - si.x0) + 0x10#64 = s0.x2 + 0x10#64 * (s0.x0 - (si.x0 - 0x1#64))
h_assert_1 : si.x0 ≤ s0.x0
h_assert_3 : si.x1 = s0.x1 + 0x10#64 * (s0.x0 - si.x0)
h_assert_4 : si.x2 = s0.x2 + 0x10#64 * (s0.x0 - si.x0)
h_assert_6 :
  ∀ (n : Nat) (addr : BitVec 64),
    mem_separate' s0.x2 (0x10#64 * (s0.x0 - si.x0)).toNat addr n →
      Memory.read_bytes n addr si.mem = Memory.read_bytes n addr s0.mem
h_assert_5 :
  ∀ (i : BitVec 64),
    i < s0.x0 - si.x0 →
      Memory.read_bytes 16 (s0.x2 + 0x10#64 * i) si.mem = Memory.read_bytes 16 (s0.x1 + 0x10#64 * i) s0.mem
h_pre_1 : mem_separate' s0.x1 (s0.x0.toNat * 16) s0.x2 (s0.x0.toNat * 16)
n : Nat
addr : BitVec 64
hsep : mem_separate' s0.x2 (0x10#64 * (s0.x0 - (si.x0 - 0x1#64))).toNat addr n
h_le : (s0.x0 - (si.x0 - 0x1#64)).toNat ≤ s0.x0.toNat
h_upper_bound : addr.toNat + n ≤ 2 ^ 64
h_upper_bound₂ : s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64
h_upper_bound₃ : s0.x2.toNat + (0x10#64 * (s0.x0 - (si.x0 - 0x1#64))).toNat ≤ 2 ^ 64
h_width_lt : 0x10#64.toNat * (s0.x0 - (si.x0 - 0x1#64)).toNat < 2 ^ 64
⊢ (s0.x2 + 0x10#64 * (s0.x0 - si.x0)).toNat + 16 ≤ 2 ^ 64
endgoal

---

time
1627
endtime
goal
case hsep.h.h₁.h.refine_3
s0 si : ArmState
h_si_x0_nonzero : si.x0 ≠ 0
h_s0_x1 : s0.x1 + 0x10#64 * (s0.x0 - si.x0) + 0x10#64 = s0.x1 + 0x10#64 * (s0.x0 - (si.x0 - 0x1#64))
h_s0_x2 : s0.x2 + 0x10#64 * (s0.x0 - si.x0) + 0x10#64 = s0.x2 + 0x10#64 * (s0.x0 - (si.x0 - 0x1#64))
h_assert_1 : si.x0 ≤ s0.x0
h_assert_3 : si.x1 = s0.x1 + 0x10#64 * (s0.x0 - si.x0)
h_assert_4 : si.x2 = s0.x2 + 0x10#64 * (s0.x0 - si.x0)
h_assert_6 :
  ∀ (n : Nat) (addr : BitVec 64),
    mem_separate' s0.x2 (0x10#64 * (s0.x0 - si.x0)).toNat addr n →
      Memory.read_bytes n addr si.mem = Memory.read_bytes n addr s0.mem
h_assert_5 :
  ∀ (i : BitVec 64),
    i < s0.x0 - si.x0 →
      Memory.read_bytes 16 (s0.x2 + 0x10#64 * i) si.mem = Memory.read_bytes 16 (s0.x1 + 0x10#64 * i) s0.mem
h_pre_1 : mem_separate' s0.x1 (s0.x0.toNat * 16) s0.x2 (s0.x0.toNat * 16)
n : Nat
addr : BitVec 64
hsep : mem_separate' s0.x2 (0x10#64 * (s0.x0 - (si.x0 - 0x1#64))).toNat addr n
h_le : (s0.x0 - (si.x0 - 0x1#64)).toNat ≤ s0.x0.toNat
h_upper_bound : addr.toNat + n ≤ 2 ^ 64
h_upper_bound₂ : s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64
h_upper_bound₃ : s0.x2.toNat + (0x10#64 * (s0.x0 - (si.x0 - 0x1#64))).toNat ≤ 2 ^ 64
h_width_lt : 0x10#64.toNat * (s0.x0 - (si.x0 - 0x1#64)).toNat < 2 ^ 64
⊢ s0.x2.toNat ≤ (s0.x2 + 0x10#64 * (s0.x0 - si.x0)).toNat
endgoal

---

time
1963
endtime
goal
case hsep.h.h₁.h.refine_4
s0 si : ArmState
h_si_x0_nonzero : si.x0 ≠ 0
h_s0_x1 : s0.x1 + 0x10#64 * (s0.x0 - si.x0) + 0x10#64 = s0.x1 + 0x10#64 * (s0.x0 - (si.x0 - 0x1#64))
h_s0_x2 : s0.x2 + 0x10#64 * (s0.x0 - si.x0) + 0x10#64 = s0.x2 + 0x10#64 * (s0.x0 - (si.x0 - 0x1#64))
h_assert_1 : si.x0 ≤ s0.x0
h_assert_3 : si.x1 = s0.x1 + 0x10#64 * (s0.x0 - si.x0)
h_assert_4 : si.x2 = s0.x2 + 0x10#64 * (s0.x0 - si.x0)
h_assert_6 :
  ∀ (n : Nat) (addr : BitVec 64),
    mem_separate' s0.x2 (0x10#64 * (s0.x0 - si.x0)).toNat addr n →
      Memory.read_bytes n addr si.mem = Memory.read_bytes n addr s0.mem
h_assert_5 :
  ∀ (i : BitVec 64),
    i < s0.x0 - si.x0 →
      Memory.read_bytes 16 (s0.x2 + 0x10#64 * i) si.mem = Memory.read_bytes 16 (s0.x1 + 0x10#64 * i) s0.mem
h_pre_1 : mem_separate' s0.x1 (s0.x0.toNat * 16) s0.x2 (s0.x0.toNat * 16)
n : Nat
addr : BitVec 64
hsep : mem_separate' s0.x2 (0x10#64 * (s0.x0 - (si.x0 - 0x1#64))).toNat addr n
h_le : (s0.x0 - (si.x0 - 0x1#64)).toNat ≤ s0.x0.toNat
h_upper_bound : addr.toNat + n ≤ 2 ^ 64
h_upper_bound₂ : s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64
h_upper_bound₃ : s0.x2.toNat + (0x10#64 * (s0.x0 - (si.x0 - 0x1#64))).toNat ≤ 2 ^ 64
h_width_lt : 0x10#64.toNat * (s0.x0 - (si.x0 - 0x1#64)).toNat < 2 ^ 64
⊢ (s0.x2 + 0x10#64 * (s0.x0 - si.x0)).toNat + 16 ≤ s0.x2.toNat + (0x10#64 * (s0.x0 - (si.x0 - 0x1#64))).toNat
endgoal

---

time
1629
endtime
goal
s0 si : ArmState
h_si_x0_nonzero : si.x0 ≠ 0
h_s0_x1 : s0.x1 + 0x10#64 * (s0.x0 - si.x0) + 0x10#64 = s0.x1 + 0x10#64 * (s0.x0 - (si.x0 - 0x1#64))
h_s0_x2 : s0.x2 + 0x10#64 * (s0.x0 - si.x0) + 0x10#64 = s0.x2 + 0x10#64 * (s0.x0 - (si.x0 - 0x1#64))
h_assert_1 : si.x0 ≤ s0.x0
h_assert_3 : si.x1 = s0.x1 + 0x10#64 * (s0.x0 - si.x0)
h_assert_4 : si.x2 = s0.x2 + 0x10#64 * (s0.x0 - si.x0)
h_assert_6 :
  ∀ (n : Nat) (addr : BitVec 64),
    mem_separate' s0.x2 (0x10#64 * (s0.x0 - si.x0)).toNat addr n →
      Memory.read_bytes n addr si.mem = Memory.read_bytes n addr s0.mem
h_assert_5 :
  ∀ (i : BitVec 64),
    i < s0.x0 - si.x0 →
      Memory.read_bytes 16 (s0.x2 + 0x10#64 * i) si.mem = Memory.read_bytes 16 (s0.x1 + 0x10#64 * i) s0.mem
h_pre_1 : mem_separate' s0.x1 (s0.x0.toNat * 16) s0.x2 (s0.x0.toNat * 16)
h_pre_2 : r StateField.PC s0 = 0x8e0#64
h_pre_6 : 16 * s0.x0.toNat < 2 ^ 64
h_subset_2 : mem_subset' s0.x2 (0x10#64 * (s0.x0 - si.x0)).toNat s0.x2 (s0.x0.toNat * 16)
h_subset_1 : mem_subset' (s0.x1 + 0x10#64 * (s0.x0 - si.x0)) 16 s0.x1 (s0.x0.toNat * 16)
s2_sum_inbounds : s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64
hi : s0.x0 - si.x0 < s0.x0 - (si.x0 - 0x1#64)
i_sub_x0_mul_16 : 16 * (s0.x0 - si.x0).toNat < 16 * s0.x0.toNat
hmemSeparate_omega✝ : s0.x1.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 ∧
  s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 ∧
    (s0.x1.toNat + s0.x0.toNat * 16 ≤ s0.x2.toNat ∨ s0.x1.toNat ≥ s0.x2.toNat + s0.x0.toNat * 16) :=
  cast
    (Eq.refl
      (s0.x1.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 ∧
        s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 ∧
          (s0.x1.toNat + s0.x0.toNat * 16 ≤ s0.x2.toNat ∨ s0.x1.toNat ≥ s0.x2.toNat + s0.x0.toNat * 16)))
    (mem_separate'.omega_def h_pre_1)
hmemLegal_omega✝⁵ : s0.x1.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 :=
  cast (Eq.refl (s0.x1.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64)) (mem_legal'.omega_def h_pre_1.ha)
hmemLegal_omega✝⁴ : s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 :=
  cast (Eq.refl (s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64)) (mem_legal'.omega_def h_pre_1.hb)
hmemSubset_omega✝¹ : s0.x2.toNat + 16 % 2 ^ 64 * ((s0.x0.toNat + (2 ^ 64 - si.x0.toNat)) % 2 ^ 64) % 2 ^ 64 ≤ 2 ^ 64 ∧
  s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 ∧
    s0.x2.toNat + 16 % 2 ^ 64 * ((s0.x0.toNat + (2 ^ 64 - si.x0.toNat)) % 2 ^ 64) % 2 ^ 64 ≤
      s0.x2.toNat + s0.x0.toNat * 16 :=
  cast
    (congr
      (congrArg (fun x => And (s0.x2.toNat + x % 2 ^ 64 ≤ 2 ^ 64))
        (congr (congrArg HMul.hMul (BitVec.toNat_ofNat 16 64)) (BitVec.toNat_sub' s0.x0 si.x0)))
      (congrArg (And (s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64))
        (Eq.trans
          (congr (congrArg And (Arm.MinTheory._auxLemma.31 s0.x2.toNat))
            (congrArg (fun x => s0.x2.toNat + x % 2 ^ 64 ≤ s0.x2.toNat + s0.x0.toNat * 16)
              (congr (congrArg HMul.hMul (BitVec.toNat_ofNat 16 64)) (BitVec.toNat_sub' s0.x0 si.x0))))
          (true_and
            (s0.x2.toNat + 16 % 2 ^ 64 * ((s0.x0.toNat + (2 ^ 64 - si.x0.toNat)) % 2 ^ 64) % 2 ^ 64 ≤
              s0.x2.toNat + s0.x0.toNat * 16)))))
    (mem_subset'.omega_def h_subset_2)
hmemLegal_omega✝³ : s0.x2.toNat + 16 % 2 ^ 64 * ((s0.x0.toNat + (2 ^ 64 - si.x0.toNat)) % 2 ^ 64) % 2 ^ 64 ≤ 2 ^ 64 :=
  cast
    (congrArg (fun x => s0.x2.toNat + x % 2 ^ 64 ≤ 2 ^ 64)
      (congr (congrArg HMul.hMul (BitVec.toNat_ofNat 16 64)) (BitVec.toNat_sub' s0.x0 si.x0)))
    (mem_legal'.omega_def h_subset_2.ha)
hmemLegal_omega✝² : s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 :=
  cast (Eq.refl (s0.x2.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64)) (mem_legal'.omega_def h_subset_2.hb)
hmemSubset_omega✝ : (s0.x1.toNat + 16 % 2 ^ 64 * ((s0.x0.toNat + (2 ^ 64 - si.x0.toNat)) % 2 ^ 64) % 2 ^ 64) % 2 ^ 64 +
      16 ≤
    2 ^ 64 ∧
  s0.x1.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 ∧
    s0.x1.toNat ≤ (s0.x1.toNat + 16 % 2 ^ 64 * ((s0.x0.toNat + (2 ^ 64 - si.x0.toNat)) % 2 ^ 64) % 2 ^ 64) % 2 ^ 64 ∧
      (s0.x1.toNat + 16 % 2 ^ 64 * ((s0.x0.toNat + (2 ^ 64 - si.x0.toNat)) % 2 ^ 64) % 2 ^ 64) % 2 ^ 64 + 16 ≤
        s0.x1.toNat + s0.x0.toNat * 16 :=
  cast
    (congr
      (congrArg (fun x => And ((s0.x1.toNat + x % 2 ^ 64) % 2 ^ 64 + 16 ≤ 2 ^ 64))
        (congr (congrArg HMul.hMul (BitVec.toNat_ofNat 16 64)) (BitVec.toNat_sub' s0.x0 si.x0)))
      (congrArg (And (s0.x1.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64))
        (congr
          (congrArg (fun x => And (s0.x1.toNat ≤ (s0.x1.toNat + x % 2 ^ 64) % 2 ^ 64))
            (congr (congrArg HMul.hMul (BitVec.toNat_ofNat 16 64)) (BitVec.toNat_sub' s0.x0 si.x0)))
          (congrArg (fun x => (s0.x1.toNat + x % 2 ^ 64) % 2 ^ 64 + 16 ≤ s0.x1.toNat + s0.x0.toNat * 16)
            (congr (congrArg HMul.hMul (BitVec.toNat_ofNat 16 64)) (BitVec.toNat_sub' s0.x0 si.x0))))))
    (mem_subset'.omega_def h_subset_1)
hmemLegal_omega✝¹ : (s0.x1.toNat + 16 % 2 ^ 64 * ((s0.x0.toNat + (2 ^ 64 - si.x0.toNat)) % 2 ^ 64) % 2 ^ 64) % 2 ^ 64 +
    16 ≤
  2 ^ 64 :=
  cast
    (congrArg (fun x => (s0.x1.toNat + x % 2 ^ 64) % 2 ^ 64 + 16 ≤ 2 ^ 64)
      (congr (congrArg HMul.hMul (BitVec.toNat_ofNat 16 64)) (BitVec.toNat_sub' s0.x0 si.x0)))
    (mem_legal'.omega_def h_subset_1.ha)
hmemLegal_omega✝ : s0.x1.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64 :=
  cast (Eq.refl (s0.x1.toNat + s0.x0.toNat * 16 ≤ 2 ^ 64)) (mem_legal'.omega_def h_subset_1.hb)
⊢ (s0.x2 + 0x10#64 * (s0.x0 - si.x0)).toNat + 16 ≤ 2 ^ 64 ∧
    (s0.x2 + 0x10#64 * (s0.x0 - si.x0)).toNat + 16 ≤ 2 ^ 64 ∧
      (s0.x2 + 0x10#64 * (s0.x0 - si.x0)).toNat ≤ (s0.x2 + 0x10#64 * (s0.x0 - si.x0)).toNat ∧
        (s0.x2 + 0x10#64 * (s0.x0 - si.x0)).toNat + 16 ≤ (s0.x2 + 0x10#64 * (s0.x0 - si.x0)).toNat + 16
endgoal
```

File: Proofs/Experiments/Memcpy/MemCpyVCG.lean [hunk 1]
```diff
@@ -741,19 +741,19 @@ theorem partial_correctness :
           apply zero_iff_z_eq_one
         simp only [h_s5_z]
 
-        simp only [show s5.x0 ≤ s0.x0 by bv_omega, true_and]
+        simp only [show s5.x0 ≤ s0.x0 by bv_omega_bench, true_and]
         rw [h_s5_x0, h_s5_x1, h_si_x1]
         have h_s0_x1 : s0.x1 + 0x10#64 * (s0.x0 - si.x0) + 0x10#64 = s0.x1 + 0x10#64 * (s0.x0 - (si.x0 - 0x1#64)) := by
-          rw [show s0.x0 - (si.x0 - 0x1#64) = (s0.x0 - si.x0) + 0x1#64 by skip_proof bv_omega,
+          rw [show s0.x0 - (si.x0 - 0x1#64) = (s0.x0 - si.x0) + 0x1#64 by skip_proof bv_omega_bench,
```
Comment (pennyannn) [inline Proofs/Experiments/Memcpy/MemCpyVCG.lean:747]: What does `skip_proof bv_omega(_bench)` do?

**Comment by pennyannn** [comment]
Cool! LGTM modulo that CI is failing.

File: Proofs/Experiments/Memcpy/MemCpyVCG.lean (hunk 1 above)
Comment (bollu) [reply Proofs/Experiments/Memcpy/MemCpyVCG.lean:747]: `skip_proof` is a combinator I wrote that replaces the proof with what is morally a `sorry`, if the option `skip_proof`is enabled (it is disabled by default, I wrote it to make writing proofs tolerable).

`bv_omega_bench` runs `bv_omega`, and also outputs benchmarking info into a text file.

**Comment by bollu** [comment]
@pennyannn thanks, this was crazy, I didn't know that the MacOS filesystem is case insensitive (!) I spent an hour going crazy, only to realize that my file used to be called `BvOmegaBench`, and `git` thought it was called `BVOmegaBench` (note the capital `V`).

**Comment by bollu** [comment]
I've started porting the extracted examples into the lean4 benchmark suite,  at https://github.com/leanprover/lean4/pull/5622. 

---

We can run the bench suite locally, to get output such as:


```
(venv) ➜  bench git:(omega-benchmarks) ✗ temci exec --config speedcenter.yaml --included_blocks omega --out base.yaml --runner time
Benchmark 3 out of 3 to 3         [####################################]  100%
Report for single runs
omega1               (    3 single benchmarks)
	 etime  mean =         3.(503), deviation =   13.95525%
	 maxrss mean = 369459200.0(00), deviation =    0.82300%
```

---

Note that this needs one to setup `temci`, where one follows the following steps:


```shell
~ $ python3 -m venv venv
~ $ source venv/bin/activate
(venv) ~ $ git clone https://github.com/Kha/temci.git
(venv) ~ $ cd temci
(venv) ~/temci $ pip3 install  .
(venv) ~/temci $ which temci
/Users/sidbhatz/work/lean4/venv/bin/temci
(venv) ~/temci $ brew install gnu-time # no perf on macOS, fallback to the bare minimum benching we can have.
(venv) ~/temci $ cd ~/lean4/tests/bench
(venv) ~/lean4/tests/bench $ temci exec --config speedcenter.yaml --included_blocks omega --out base.yaml --runner time
Benchmark 3 out of 3 to 3         [####################################]  100%
Report for single runs
omega1               (    3 single benchmarks)
	 etime  mean =         3.(503), deviation =   13.95525%
	 maxrss mean = 369459200.0(00), deviation =    0.82300%

```

**Review by shigoel — APPROVED** [review]
